US05143914
To a stirred solution of m-bromoaniline (6.88 g; 0.04M) in 42.2 g (0.2M) of 2-(t-butyldimethylsilyloxymethyl)furan at 0° was added isoamylnitrite (10.75 mL: 0.08M) dropwise over a period of 0.5 hr. The resulting mixture was then heated 16 hours at 50° C. The reaction mixture was cooled and diluted with 150 mL of ether and washed with 2×100 mL of ice cold water. The organic phase was dried over anhydrous magnesium sulfate, and the residue was distilled after filtering through 50 G of silica gel bed, to give 26% of the desired 2-(3'-bromophenyl)-5-(t-butyldimethylsilyloxymethyl)furan as a colorless liquid boiling at 163°-7°/~0.5 mm.

reactant | m-bromoaniline | 0.04M, 6.88 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | isoamylnitrite | 0.08M, 10.75 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | 2-(t-butyldimethylsilyloxymethyl)furan | 0.2M, 42.2 g | [Si](C)(C)(C(C)(C)C)OCC=1OC=CC1 | C11H20O2Si
solvent | ether | 150 mL | CCOCC | C4H10O
product | 2-(3'-bromophenyl)-5-(t-butyldimethylsilyloxymethyl)furan | 26% | BrC=1C=C(C=CC1)C=1OC(=CC1)CO[Si](C)(C)C(C)(C)C | C17H23BrO2Si
